US05521188
B. 3-(4-Ethylthio-5-(4-methyl-1,2-dioxocyclobut-3-en-3-yl)amino-3-indolyl)1-propanol
A mixture of 3-(5-amino-4-ethylthio-3-indolyl)-1-propanol (0.93 g, 3.7 mmol), 3-chloro-4-methyl-1,2-dioxocyclobut-3-ene (0.58 g, 4.4 mmol) and Et3N (0.62 ml, 4.4 mmol) in DMF (50 ml) was stirred at 23° C. for 50 h before adding water (200 ml). The aqueous solution was extracted with EtOAc (3×75 ml). The organic extracts were washed with water (50 ml), dried (MgSO4) and concentrated in vacuo. The crude material was purified on silica gel dry column using first a mixture of CH2Cl2 :EtOAc (1:4) and then EtOAc:Et3N (49:1). Appropriate fractions were concentrated in vacuo leaving yellow crystals, 0.815 g, m.p. 119° C., 64%. 1H NMR (DMSO-d6) δ (ppm): 11.17, 11.11, 10.80 and 10.51 (4 br s, 2H indolic NH, and 5-NH), 7.4 (br s, 1H), 7.26 (s, 1H), 7.07 (d, J=8.2 Hz, 1H), 4.40 (t, J=5.2 Hz, 1H, OH), 3.46 (t, J=3.5 Hz, 2H after D2O exchange), 2.95-3.10 (m, 2H, CH2CH2CH2O), 2.66 (br s, 2H, CH3CH 2 S), 2.26 (br s, 1H, CH3 on dioxocyclobutene), 1.7-1.9 (m, 2H, CH2CH2CH2O), 1.59 (br s, 2H, CH3 on dioxocyclobutene), 0.9-1.1 (m, 3H, CH3CH2S). IR (KBr) n:3420, 3300-3000, 1775, 1728, 1620, 1580 and 1400 cm-1. Anal. calcd. for: C18H20N2O3S: C 62.77; H 5.85; N 8.13; S 9.31. Found: C 62.75; H 5.85; N 8.20; S 9.25.

reactant | 3-(5-amino-4-ethylthio-3-indolyl)-1-propanol | 3.7 mmol, 0.93 g | NC=1C(=C2C(=CNC2=CC1)CCCO)SCC | C13H18N2OS
reactant | 3-chloro-4-methyl-1,2-dioxocyclobut-3-ene | 4.4 mmol, 0.58 g | ClC=1C(C(C1C)=O)=O | C5H3ClO2
reactant | Et3N | 4.4 mmol, 0.62 ml | CCN(CC)CC | C6H15N
reactant | KBr | [K+].[Br-]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 3-(4-Ethylthio-5-(4-methyl-1,2-dioxocyclobut-3-en-3-yl)amino-3-indolyl)1-propanol | C(C)SC1=C2C(=CNC2=CC=C1NC=1C(C(C1C)=O)=O)CCCO | C18H20N2O3S
